US06331538B1
1-(2,4-Difluorophenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Twenty percent Pd/C (50 mg) was added to a solution of 3-benzyloxy-1-(2,4-difluorophenyl)-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example K-4, 0.22 g, 0.5 mmol) in 40 mL of THF, and this was shaken under 50 PSI of hydrogen for 16 hours. The mixture was filtered and concentrated to afford 0.19 g of a solid. This solid was triturated with ether and filtered to give 0.08 g of the title compound as a solid, mp 232-234° C.

reactant | 3-benzyloxy-1-(2,4-difluorophenyl)-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.5 mmol, 0.22 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)N1CCCC1)C1=C(C=C(C=C1)F)F)=O | C25H20F3N3O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1-(2,4-Difluorophenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.19 g | FC1=C(C=CC(=C1)F)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)O)=O | C18H14F3N3O3
